US05932571
Synthesis of (S)-N-methyl-N-(2-(4-fluorophenyl)-4-oxobutyl)-2-methoxy-5-(1H-tetrazol-1-yl)benzamide
Combine (S)-N-methyl-N-(2-(4-fluorophenyl)pent-4-enyl)-2-methoxy-5-(1H-tetrazol-1-yl)benzamide (4.46 g, 11.3 mmol), acetone/t-butanol/water (2/1/1, 64 mL), and a solution of N-methylmorpholine N-oxide (3.0 mL, 50% in water, 14.5 mmol). Add a solution of osmium tetraoxide (3.0 mL, 4% in water, 0.5 mmol). After 3 hours, evaporate in vacuo to remove most of the acetone and partition the evaporated reaction mixture between dichloromethane and an aqueous 10% solution of sodium thiosulfate. Separate the layer, dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Combine the residue, tetrahydrofuran (80 mL), and water (20 mL). Add sodium meta-periodate (3.63 g). After 1.5 hours, filter the reaction mixture, rinse the solids with dichloromethane, and evaporate the filtrate to obtain a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give the title compound: Rf =0.22 (silica gel, ethyl acetate).

reactant | (S)-N-methyl-N-(2-(4-fluorophenyl)pent-4-enyl)-2-methoxy-5-(1H-tetrazol-1-yl)benzamide | 11.3 mmol, 4.46 g | CN(C(C1=C(C=CC(=C1)N1N=NN=C1)OC)=O)C[C@@H](CC=C)C1=CC=C(C=C1)F | C21H22FN5O2
reactant | N-methylmorpholine N-oxide | 14.5 mmol, 3.0 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium meta-periodate | 3.63 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetraoxide | 0.5 mmol, 3.0 mL | [Os](=O)(=O)(=O)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | acetone t-butanol water | 64 mL | CC(=O)C.C(C)(C)(C)O.O
product | (S)-N-methyl-N-(2-(4-fluorophenyl)-4-oxobutyl)-2-methoxy-5-(1H-tetrazol-1-yl)benzamide | CN(C(C1=C(C=CC(=C1)N1N=NN=C1)OC)=O)C[C@@H](CC=O)C1=CC=C(C=C1)F | C20H20FN5O3
